US04435385
(i) BOC-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol
2.5 ml NEt3, 11.2 g BOC-Phe-(D)Trp-Lys(Z)-OH and 4 g HOBT are added to 9 g H-Thr-Cys(MBzl)-Thr-ol trifluoroacetate in 100 ml DMF. 3.7 g DCCI in 10 ml DMF are added to the solution at -20° C. and the whole is stirred for ca. 18 hours at 0° C. and 2 hrs. at room temperature. Precipitated dicyclohexyl-urea is filtered off and the filtrate concentrated under vacuum and diluted with methanol. H2O is added until the product precipitates. The precipitate is filtered, washed with MeOH/H2O (4:1) and dried to yield the title compound:

reactant | BOC-Phe-(D)Trp-Lys(Z)-OH | 11.2 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C39H47N5O8
reactant | HOBT | 4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Thr-Cys(MBzl)-Thr-ol trifluoroacetate | 9 g | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO.FC(F)(F)C(=O)O
reactant | DCCI | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | NEt3 | 2.5 ml | CCN(CC)CC | C6H15N
product | BOC-Phe-(D)Trp-Lys(Z)-Thr-Cys(MBzl)-Thr-ol | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO)C(=O)OC(C)(C)C | C58H76N8O12S
